US07662972B2
4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2-methoxyiminoethyl)-2-methyl benzoic acid amide (Compound of the Present Invention No. 5-113)
In a solution of 152 mg of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2-dimethoxyethyl)-2-methyl benzoic acid amide (Compound of the present invention No. 5-083) synthesized similarly to Synthetic Example 5 in 14 ml of methanol-water (6:1) mixed solvent, 38 mg of methoxyamine hydrochloride was added, and stirred under reflux with heat for 8 hours. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, diluted by adding 80 ml of ethyl acetate, washed with water (30 ml×2), and dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethylacetate-hexane (1:1), and 102 mg of the aimed product was obtained as colorless resinous substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2-dimethoxyethyl)-2-methyl benzoic acid amide | 152 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NCC(OC)OC)C=C1)C)C(F)(F)F | C22H21Cl2F3N2O4
reactant | methoxyamine hydrochloride | 38 mg | Cl.CON
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol water | 14 ml | CO.O
product | 4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2-methoxyiminoethyl)-2-methyl benzoic acid amide | 102 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NCC=NOC)C=C1)C)C(F)(F)F | C21H18Cl2F3N3O3
